US07531532B2
6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-ylamine (200 mg) was dissolved in tetrahydrofuran (8 ml) under a nitrogen atmosphere, and then triethylamine (0.334 ml) and phenyl chloroformate (0.301 ml) were added thereto while cooling in an ice water bath, followed by warming to room temperature and stirring for 1.5 hrs. The reaction mixture was partitioned between ethyl acetate (200 ml) and a saturated aqueous solution of sodium hydrogencarbonate (50 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (50 ml), water (50 ml), brine (100 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, to which was added N,N-dimethylformamide (8 ml). 4-(Pyrrolidin-1-ylmethyl)piperidine dihydrochloride (771 mg) and triethylamine (0.896 ml) were added thereto, followed by stirring for 4 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and a saturated aqueous solution of ammonium chloride (50 ml). The organic layer was washed with a saturated aqueous solution of ammonium chloride (50 ml), water (50 ml), and brine (50 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, heptane:ethyl acetate=1:1, then ethyl acetate). Fractions containing the target compound were concentrated to provide 4-(pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide (350 mg) as a pale yellow oil.

reactant | 6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-ylamine | 200 mg | FC1=C(OC2=CC(=NC=N2)N)C=CC(=C1)[N+](=O)[O-] | C10H7FN4O3
reactant | phenyl chloroformate | 0.301 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(Pyrrolidin-1-ylmethyl)piperidine dihydrochloride | 771 mg | Cl.Cl.N1(CCCC1)CC1CCNCC1
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.896 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.334 ml | C(C)N(CC)CC | C6H15N
product | 4-(pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 350 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)CN2CCCC2)C=CC(=C1)[N+](=O)[O-] | C21H25FN6O4
